US07989457B2
Step C. 2-(3-Fluoro-4′-trifluoromethyl-biphenyl-4-yl)-ethanol
To a 0° C. solution of (3-fluoro-4′-trifluoromethyl-biphenyl-4-yl)-acetaldehyde (372 mg, 1.31 mmol) in THF/MeOH (10/3 mL) is added portion-wise sodium borohydride (100 mg, 2.62 mmol) and warmed to room temperature. After 1 h TLC (30% EtOAc/hexane) indicates complete consumption of starting material. The reaction mixture is concentrated and the residue is partitioned between EtOAc (100 mL) and 0.2N HCl (20 mL). The aqueous layer is extracted with a second portion of EtOAc (50 mL). The combined organic layers are washed with brine, dried (MgSO4), filtered and concentrated to yield the title compound (374 mg, quant.). 1NMR (400 MHz, CDCl3) δ ppm: 7.68 (q, 4H, J=8.2 Hz), 7.38-7.32 (m, 2H), 7.29 (d, 1H, J=11.0 Hz), 3.92 (t, 2H, J=6.6 Hz), 2.97 (t, 2H, J=6.6 Hz).

reactant | (3-fluoro-4′-trifluoromethyl-biphenyl-4-yl)-acetaldehyde | 1.31 mmol, 372 mg | FC=1C=C(C=CC1CC=O)C1=CC=C(C=C1)C(F)(F)F | C15H10F4O
reactant | sodium borohydride | 2.62 mmol, 100 mg | [BH4-].[Na+]
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | THF MeOH | 3 mL | C1CCOC1.CO
product | 2-(3-Fluoro-4′-trifluoromethyl-biphenyl-4-yl)-ethanol | 374 mg | FC=1C=C(C=CC1CCO)C1=CC=C(C=C1)C(F)(F)F | C15H12F4O
